US08859772B2
Inside the glove box, 130 mg of PDI-Br (1 eq, Mw=665.62 gr/mole, n=1.95×104 mole) were weighed in a clean vial. 14.65 mg of Pd2(DBA)3, (0.05 eq) (10% mole, Mw=915.72 gr/mole, n=1.6×10−5 mole) & 10% mole of tri-(t-Butyl)phosphine (6.75 mg, Mw=211.3902 gr/mole) were added to PDI-Br dissolved in 10 ml of toluene. The mixture was stirred for 5 min & then added dropwise to a toluenic solution of Terpy-acetylene-tributylTin. According to the TLC, the reaction is completed in 2 h. Silica gel column chromatography resulted in 231 mg (Mw=918.09 gr/mole) of the product, Terpy-PDI(dmp), 84% yield. Mass-spectra and NMR to confirm that the product was obtained as presented in FIG. 15.

reactant | tri-(t-Butyl)phosphine | 6.75 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Terpy acetylene tributylTin | C1=CC=NC(=C1)C2=NC(=CC=C2)C3=CC=CC=N3.C#C.C(CCC)[Sn](CCCC)CCCC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(DBA)3 | 1.6×10−5 mole, 14.65 mg, 0.05 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Terpy | 84% yield | C1=CC=NC(=C1)C2=NC(=CC=C2)C3=CC=CC=N3 | C15H11N3
